US07863271B2
Diisopropylazidodicarboxylate (1.82 g, 9.3 mmol) was added to solution of (S)-2-amino-N-benzyl-N-(2-hydroxyethyl)butanamide (1.84 g, 7.8 mmol) and triphenylphosphine (2.62 g, 10.0 mmol) in THF (50 mL). The reaction mixture was stirred at room temperature for 7 d. The solvent was removed under reduced pressure, and the residue was purified by column chromatography (silica gel, 10% CH3OH in EtOAc) to afford (S)-1-benzyl-3-ethylpiperazine-2-one (0.8 g, 47%) as clear oil. 1H NMR consistent.

reactant | (S)-2-amino-N-benzyl-N-(2-hydroxyethyl)butanamide | 7.8 mmol, 1.84 g | N[C@H](C(=O)N(CCO)CC1=CC=CC=C1)CC | C13H20N2O2
reactant | triphenylphosphine | 10.0 mmol, 2.62 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (S)-1-benzyl-3-ethylpiperazine-2-one | 0.8 g, 47% | C(C1=CC=CC=C1)N1C([C@@H](NCC1)CC)=O | C13H18N2O
